* NGSPICE file created from PFD_std.ext - technology: ihp-sg13g2

.subckt PFD_std VDD GND Y A VSS B CLK D Q_N Q RESET_B F_REF F_VCO DN RST_N UP
X0 a_398_143# RST_N GND GND sg13_lv_nmos ad=38.85f pd=0.605u as=0.1701p ps=1.65u w=0.42u l=0.13u
X1 UP Q GND GND sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X2 a_172_448# a_683_474# a_1431_207# GND sg13_lv_nmos ad=0.3473p pd=2.71u as=0.12665p ps=1.145u w=0.74u l=0.13u
X3 a_460_n907# a_171_n602# a_397_n907# GND sg13_lv_nmos ad=0.1596p pd=1.6u as=38.85f ps=0.605u w=0.42u l=0.13u
X4 RST_N DN VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.4032p ps=2.96u w=1.12u l=0.13u
X5 a_529_521# a_172_448# VDD VDD sg13_lv_pmos ad=54.6f pd=0.68u as=0.1563p ps=1.22u w=0.42u l=0.13u
X6 a_1620_445# a_683_474# a_1431_207# VDD sg13_lv_pmos ad=52.5f pd=0.67u as=0.19115p ps=1.565u w=0.42u l=0.13u
X7 VDD RST_N a_n115_n920# VDD sg13_lv_pmos ad=0.36237p pd=2.605u as=79.8f ps=0.8u w=0.42u l=0.13u
X8 a_1619_n605# a_682_n576# a_1430_n843# VDD sg13_lv_pmos ad=52.5f pd=0.67u as=0.19115p ps=1.565u w=0.42u l=0.13u
X9 a_581_387# F_REF a_969_151# GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.43315p ps=2.205u w=0.74u l=0.13u
X10 a_1658_n703# RST_N a_1695_n605# VDD sg13_lv_pmos ad=79.8f pd=0.8u as=0.25605p ps=1.935u w=0.42u l=0.13u
X11 a_1049_426# a_581_387# a_683_474# VDD sg13_lv_pmos ad=0.43102p pd=2.145u as=0.3864p ps=2.93u w=1.12u l=0.13u
X12 a_1659_347# RST_N a_1696_445# VDD sg13_lv_pmos ad=79.8f pd=0.8u as=0.25605p ps=1.935u w=0.42u l=0.13u
X13 a_969_151# a_581_387# a_683_474# GND sg13_lv_nmos ad=0.43315p pd=2.205u as=0.2516p ps=2.16u w=0.74u l=0.13u
X14 Q_N a_1431_207# GND GND sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X15 a_580_n663# F_VCO a_968_n899# GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.43315p ps=2.205u w=0.74u l=0.13u
X16 Q_N a_1430_n843# VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.2014p ps=1.53u w=1.12u l=0.13u
X17 a_2231_n642# a_1430_n843# GND GND sg13_lv_nmos ad=0.2176p pd=1.96u as=0.1331p ps=1.12u w=0.64u l=0.13u
X18 a_n115_n920# VDD VDD VDD sg13_lv_pmos ad=79.8f pd=0.8u as=0.1428p ps=1.52u w=0.42u l=0.13u
X19 a_172_448# a_146_353# GND GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1626p ps=1.415u w=0.74u l=0.13u
X20 VDD a_1431_207# a_1659_347# VDD sg13_lv_pmos ad=0.2014p pd=1.53u as=79.8f ps=0.8u w=0.42u l=0.13u
X21 GND a_1431_207# Q_N GND sg13_lv_nmos ad=0.1331p pd=1.12u as=0.1406p ps=1.12u w=0.74u l=0.13u
X22 a_1695_n605# a_1658_n703# a_1619_n605# VDD sg13_lv_pmos ad=0.25605p pd=1.935u as=52.5f ps=0.67u w=0.42u l=0.13u
X23 a_1430_n843# a_580_n663# a_1336_n843# GND sg13_lv_nmos ad=0.12665p pd=1.145u as=0.1428p ps=1.52u w=0.42u l=0.13u
X24 a_461_143# a_172_448# a_398_143# GND sg13_lv_nmos ad=0.1596p pd=1.6u as=38.85f ps=0.605u w=0.42u l=0.13u
X25 VDD RST_N a_n114_130# VDD sg13_lv_pmos ad=0.36237p pd=2.605u as=79.8f ps=0.8u w=0.42u l=0.13u
X26 a_2232_408# a_1431_207# GND GND sg13_lv_nmos ad=0.2176p pd=1.96u as=0.1331p ps=1.12u w=0.64u l=0.13u
X27 a_1430_n843# a_580_n663# a_171_n602# VDD sg13_lv_pmos ad=0.19115p pd=1.565u as=0.34p ps=2.68u w=1u l=0.13u
X28 a_968_n899# a_580_n663# a_682_n576# GND sg13_lv_nmos ad=0.43315p pd=2.205u as=0.2516p ps=2.16u w=0.74u l=0.13u
X29 a_1659_347# a_1431_207# a_1850_130# GND sg13_lv_nmos ad=0.1428p pd=1.52u as=37.8f ps=0.6u w=0.42u l=0.13u
X30 VDD a_1430_n843# a_1658_n703# VDD sg13_lv_pmos ad=0.2014p pd=1.53u as=79.8f ps=0.8u w=0.42u l=0.13u
X31 a_n20_130# VDD a_n114_130# GND sg13_lv_nmos ad=60.89999f pd=0.71u as=0.1428p ps=1.52u w=0.42u l=0.13u
X32 a_1431_207# a_581_387# a_1337_207# GND sg13_lv_nmos ad=0.12665p pd=1.145u as=0.1428p ps=1.52u w=0.42u l=0.13u
X33 Q a_2232_408# GND GND sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X34 a_145_n697# a_580_n663# a_n115_n920# GND sg13_lv_nmos ad=81f pd=0.81u as=0.1296p ps=1.52u w=0.42u l=0.13u
X35 RST_N Q a_2880_n919# GND sg13_lv_nmos ad=0.1368p pd=1.1u as=0.1404p ps=1.11u w=0.72u l=0.13u
X36 Q a_2232_408# VDD VDD sg13_lv_pmos ad=0.2156p pd=1.505u as=0.3808p ps=2.92u w=1.12u l=0.13u
X37 VDD a_1430_n843# Q_N VDD sg13_lv_pmos ad=0.2083p pd=1.5u as=0.2128p ps=1.5u w=1.12u l=0.13u
X38 Q_N a_1430_n843# GND GND sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X39 a_2880_n919# DN GND GND sg13_lv_nmos ad=0.1404p pd=1.11u as=0.1368p ps=1.1u w=0.72u l=0.13u
X40 GND a_1659_347# a_1337_207# GND sg13_lv_nmos ad=79.8f pd=0.8u as=0.1428p ps=1.52u w=0.42u l=0.13u
X41 a_171_n602# a_145_n697# VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.36237p ps=2.605u w=1u l=0.13u
X42 a_1850_130# RST_N GND GND sg13_lv_nmos ad=37.8f pd=0.6u as=79.8f ps=0.8u w=0.42u l=0.13u
X43 a_146_353# a_581_387# a_n114_130# GND sg13_lv_nmos ad=81f pd=0.81u as=0.1296p ps=1.52u w=0.42u l=0.13u
X44 a_528_n529# a_171_n602# VDD VDD sg13_lv_pmos ad=54.6f pd=0.68u as=0.1563p ps=1.22u w=0.42u l=0.13u
X45 a_461_143# a_683_474# a_146_353# GND sg13_lv_nmos ad=0.2163p pd=1.87u as=81f ps=0.81u w=0.42u l=0.13u
X46 Q_N a_1431_207# VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.2014p ps=1.53u w=1.12u l=0.13u
X47 VDD Q UP VDD sg13_lv_pmos ad=0.3864p pd=2.93u as=0.2128p ps=1.5u w=1.12u l=0.13u
X48 a_1431_207# a_581_387# a_172_448# VDD sg13_lv_pmos ad=0.19115p pd=1.565u as=0.34p ps=2.68u w=1u l=0.13u
X49 a_1696_445# a_1659_347# a_1620_445# VDD sg13_lv_pmos ad=0.25605p pd=1.935u as=52.5f ps=0.67u w=0.42u l=0.13u
X50 a_1658_n703# a_1430_n843# a_1849_n920# GND sg13_lv_nmos ad=0.1428p pd=1.52u as=37.8f ps=0.6u w=0.42u l=0.13u
X51 GND RST_N a_n20_130# GND sg13_lv_nmos ad=0.1626p pd=1.415u as=60.89999f ps=0.71u w=0.42u l=0.13u
X52 VDD a_1431_207# Q_N VDD sg13_lv_pmos ad=0.2083p pd=1.5u as=0.2128p ps=1.5u w=1.12u l=0.13u
X53 GND RST_N a_n21_n920# GND sg13_lv_nmos ad=0.1626p pd=1.415u as=60.89999f ps=0.71u w=0.42u l=0.13u
X54 a_2880_n919# Q RST_N GND sg13_lv_nmos ad=0.2448p pd=2.12u as=0.1368p ps=1.1u w=0.72u l=0.13u
X55 a_2232_408# a_1431_207# VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.2083p ps=1.5u w=1u l=0.13u
X56 VDD a_2232_408# Q VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.2156p ps=1.505u w=1.12u l=0.13u
X57 GND a_2232_408# Q GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1406p ps=1.12u w=0.74u l=0.13u
X58 a_145_n697# a_580_n663# a_528_n529# VDD sg13_lv_pmos ad=79.8f pd=0.8u as=54.6f ps=0.68u w=0.42u l=0.13u
X59 a_n21_n920# VDD a_n115_n920# GND sg13_lv_nmos ad=60.89999f pd=0.71u as=0.1428p ps=1.52u w=0.42u l=0.13u
X60 a_2231_n642# a_1430_n843# VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.2083p ps=1.5u w=1u l=0.13u
X61 VDD DN RST_N VDD sg13_lv_pmos ad=0.2184p pd=1.51u as=0.2128p ps=1.5u w=1.12u l=0.13u
X62 RST_N Q VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.2184p ps=1.51u w=1.12u l=0.13u
X63 GND a_1658_n703# a_1336_n843# GND sg13_lv_nmos ad=79.8f pd=0.8u as=0.1428p ps=1.52u w=0.42u l=0.13u
X64 DN a_2231_n642# GND GND sg13_lv_nmos ad=0.1406p pd=1.12u as=0.2516p ps=2.16u w=0.74u l=0.13u
X65 a_146_353# a_581_387# a_529_521# VDD sg13_lv_pmos ad=79.8f pd=0.8u as=54.6f ps=0.68u w=0.42u l=0.13u
X66 a_1048_n624# a_580_n663# a_682_n576# VDD sg13_lv_pmos ad=0.43102p pd=2.145u as=0.3864p ps=2.93u w=1.12u l=0.13u
X67 a_171_n602# a_682_n576# a_1430_n843# GND sg13_lv_nmos ad=0.3473p pd=2.71u as=0.12665p ps=1.145u w=0.74u l=0.13u
X68 a_n114_130# a_683_474# a_146_353# VDD sg13_lv_pmos ad=0.1428p pd=1.52u as=79.8f ps=0.8u w=0.42u l=0.13u
X69 a_581_387# F_REF a_1049_426# VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.43102p ps=2.145u w=1.12u l=0.13u
X70 UP Q VDD VDD sg13_lv_pmos ad=0.2128p pd=1.5u as=0.3808p ps=2.92u w=1.12u l=0.13u
X71 VDD RST_N a_145_n697# VDD sg13_lv_pmos ad=0.1563p pd=1.22u as=0.147p ps=1.54u w=0.42u l=0.13u
X72 GND Q UP GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1406p ps=1.12u w=0.74u l=0.13u
X73 GND DN a_2880_n919# GND sg13_lv_nmos ad=0.1368p pd=1.1u as=0.27p ps=2.19u w=0.72u l=0.13u
X74 a_n114_130# VDD VDD VDD sg13_lv_pmos ad=79.8f pd=0.8u as=0.1428p ps=1.52u w=0.42u l=0.13u
X75 a_172_448# a_146_353# VDD VDD sg13_lv_pmos ad=0.34p pd=2.68u as=0.36237p ps=2.605u w=1u l=0.13u
X76 a_460_n907# a_682_n576# a_145_n697# GND sg13_lv_nmos ad=0.2163p pd=1.87u as=81f ps=0.81u w=0.42u l=0.13u
X77 a_397_n907# RST_N GND GND sg13_lv_nmos ad=38.85f pd=0.605u as=0.1701p ps=1.65u w=0.42u l=0.13u
X78 a_1849_n920# RST_N GND GND sg13_lv_nmos ad=37.8f pd=0.6u as=79.8f ps=0.8u w=0.42u l=0.13u
X79 a_n115_n920# a_682_n576# a_145_n697# VDD sg13_lv_pmos ad=0.1428p pd=1.52u as=79.8f ps=0.8u w=0.42u l=0.13u
X80 a_171_n602# a_145_n697# GND GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1626p ps=1.415u w=0.74u l=0.13u
X81 VDD Q RST_N VDD sg13_lv_pmos ad=0.392p pd=2.94u as=0.2128p ps=1.5u w=1.12u l=0.13u
X82 GND a_1430_n843# Q_N GND sg13_lv_nmos ad=0.1331p pd=1.12u as=0.1406p ps=1.12u w=0.74u l=0.13u
X83 GND a_2231_n642# DN GND sg13_lv_nmos ad=0.2516p pd=2.16u as=0.1406p ps=1.12u w=0.74u l=0.13u
X84 VDD RST_N a_146_353# VDD sg13_lv_pmos ad=0.1563p pd=1.22u as=0.147p ps=1.54u w=0.42u l=0.13u
X85 VDD a_2231_n642# DN VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.2156p ps=1.505u w=1.12u l=0.13u
X86 a_580_n663# F_VCO a_1048_n624# VDD sg13_lv_pmos ad=0.3808p pd=2.92u as=0.43102p ps=2.145u w=1.12u l=0.13u
X87 DN a_2231_n642# VDD VDD sg13_lv_pmos ad=0.2156p pd=1.505u as=0.3808p ps=2.92u w=1.12u l=0.13u
C0 F_REF a_172_448# 0.15772f
C1 RST_N a_146_353# 0.22668f
C2 Q UP 0.45493f
C3 a_n114_130# a_683_474# 0.08858f
C4 a_460_n907# a_171_n602# 0.41224f
C5 RST_N Q 0.87252f
C6 a_2231_n642# Q_N 0.05278f
C7 a_1430_n843# a_1658_n703# 0.39948f
C8 F_REF F_VCO 0.02708f
C9 a_1431_207# a_1659_347# 0.39948f
C10 F_VCO a_171_n602# 0.1997f
C11 a_682_n576# VDD 0.1814f
C12 a_581_387# a_146_353# 0.02202f
C13 a_172_448# a_683_474# 0.3005f
C14 a_1696_445# a_1659_347# 0.01442f
C15 VDD a_146_353# 0.09235f
C16 VDD Q_N 0.6471f
C17 RST_N a_1659_347# 0.12343f
C18 F_REF RST_N 0.15617f
C19 VDD Q 0.88067f
C20 RST_N a_171_n602# 0.40486f
C21 a_682_n576# a_1048_n624# 0.02037f
C22 a_461_143# a_n114_130# 0.29725f
C23 a_1049_426# a_683_474# 0.02037f
C24 a_2232_408# a_1431_207# 0.0513f
C25 RST_N a_2880_n919# 0.19806f
C26 a_1431_207# a_683_474# 0.30906f
C27 a_171_n602# a_n115_n920# 0.51616f
C28 DN Q 0.07753f
C29 F_VCO a_968_n899# 0.01359f
C30 F_REF a_581_387# 0.3904f
C31 a_145_n697# a_171_n602# 0.34866f
C32 a_171_n602# a_1336_n843# 0.42376f
C33 RST_N a_683_474# 0.41626f
C34 VDD a_1659_347# 0.14379f
C35 a_461_143# a_172_448# 0.41224f
C36 F_REF VDD 0.28066f
C37 a_1695_n605# a_1658_n703# 0.01442f
C38 VDD a_171_n602# 0.07511f
C39 a_460_n907# a_580_n663# 0.02489f
C40 a_2880_n919# VDD 0.0292f
C41 a_581_387# a_683_474# 0.53058f
C42 F_VCO a_580_n663# 0.38781f
C43 a_2232_408# VDD 0.55758f
C44 a_2880_n919# DN 0.1527f
C45 VDD a_683_474# 0.18353f
C46 RST_N a_461_143# 0.01337f
C47 RST_N a_1430_n843# 0.14051f
C48 a_1430_n843# a_2231_n642# 0.0513f
C49 a_172_448# a_n114_130# 0.51616f
C50 RST_N a_580_n663# 0.04695f
C51 RST_N a_1658_n703# 0.122f
C52 a_580_n663# a_n115_n920# 0.02488f
C53 a_682_n576# a_171_n602# 0.3005f
C54 a_1430_n843# a_1336_n843# 0.29283f
C55 a_461_143# a_581_387# 0.02489f
C56 Q_N a_1659_347# 0.16081f
C57 F_REF a_146_353# 0.06501f
C58 a_1336_n843# a_580_n663# 0.01037f
C59 a_145_n697# a_580_n663# 0.02202f
C60 VDD a_1430_n843# 0.28952f
C61 VDD a_580_n663# 0.22704f
C62 a_2880_n919# Q 0.02553f
C63 RST_N a_n114_130# 0.08774f
C64 a_969_151# a_172_448# 0.02051f
C65 VDD a_1658_n703# 0.14177f
C66 a_460_n907# F_VCO 0.036f
C67 a_2232_408# Q_N 0.05278f
C68 a_1431_207# a_172_448# 0.01501f
C69 a_2232_408# Q 0.16182f
C70 RST_N a_1695_n605# 0.01791f
C71 a_1048_n624# a_580_n663# 0.01711f
C72 a_581_387# a_n114_130# 0.02488f
C73 RST_N a_172_448# 0.46252f
C74 VDD a_n114_130# 0.89476f
C75 a_460_n907# a_n115_n920# 0.29725f
C76 a_682_n576# a_1430_n843# 0.30906f
C77 RST_N F_VCO 0.17465f
C78 a_1049_426# RST_N 0.01598f
C79 a_1659_347# a_683_474# 0.04589f
C80 a_1337_207# a_172_448# 0.42376f
C81 a_682_n576# a_580_n663# 0.53058f
C82 F_REF a_683_474# 0.07722f
C83 RST_N a_1431_207# 0.14267f
C84 a_172_448# a_581_387# 0.4437f
C85 F_VCO a_n115_n920# 0.05741f
C86 a_1430_n843# Q_N 0.07286f
C87 a_682_n576# a_1658_n703# 0.04589f
C88 RST_N a_1696_445# 0.01562f
C89 VDD a_172_448# 0.07621f
C90 a_145_n697# F_VCO 0.01855f
C91 a_171_n602# a_968_n899# 0.02051f
C92 a_969_151# a_581_387# 0.03849f
C93 a_1049_426# a_581_387# 0.01711f
C94 a_1431_207# a_1337_207# 0.29283f
C95 Q_N a_1658_n703# 0.16081f
C96 RST_N a_2231_n642# 0.01014f
C97 RST_N a_n115_n920# 0.12803f
C98 VDD F_VCO 0.15687f
C99 VDD a_1431_207# 0.29867f
C100 RST_N a_145_n697# 0.26588f
C101 RST_N a_581_387# 0.0565f
C102 a_145_n697# a_n115_n920# 0.78507f
C103 a_1430_n843# a_171_n602# 0.01501f
C104 a_n114_130# a_146_353# 0.78507f
C105 VDD UP 0.38837f
C106 RST_N VDD 3.41663f
C107 a_171_n602# a_580_n663# 0.4437f
C108 VDD a_2231_n642# 0.5527f
C109 VDD a_n115_n920# 0.86676f
C110 a_1337_207# a_581_387# 0.01037f
C111 DN UP 0.01925f
C112 a_682_n576# a_460_n907# 0.08237f
C113 RST_N DN 0.2594f
C114 a_461_143# a_683_474# 0.08237f
C115 a_145_n697# VDD 0.09235f
C116 a_2231_n642# DN 0.15871f
C117 a_172_448# a_146_353# 0.34866f
C118 RST_N a_1048_n624# 0.02108f
C119 VDD a_581_387# 0.23975f
C120 a_682_n576# F_VCO 0.03795f
C121 F_REF a_n114_130# 0.08574f
C122 a_968_n899# a_580_n663# 0.03849f
C123 Q_N a_1431_207# 0.07288f
C124 VDD DN 0.6159f
C125 a_682_n576# RST_N 0.4219f
C126 a_682_n576# a_n115_n920# 0.08858f
R0 VDD.n3 VDD.n2 17.5138
R1 VDD.n15 VDD.n14 17.5138
R2 VDD.n8 VDD.n7 17.0005
R3 VDD.n20 VDD.n19 17.0005
R4 VDD.n10 VDD.n9 15.0144
R5 VDD.n1 VDD.n0 15.0036
R6 VDD.n19 VDD.n18 4.39065
R7 VDD.n5 VDD 3.52544
R8 VDD.n17 VDD 3.52544
R9 VDD.n7 VDD.n4 3.05346
R10 VDD.n6 VDD.n3 1.25491
R11 VDD.n16 VDD.n15 1.23733
R12 VDD.n17 VDD.n16 1.18491
R13 VDD.n6 VDD.n5 1.16733
R14 VDD.n12 VDD.n11 0.6792
R15 VDD.n13 VDD 0.667521
R16 VDD.n11 VDD 0.4625
R17 VDD VDD.n12 0.4548
R18 VDD.n13 VDD 0.433479
R19 VDD VDD.n10 0.341218
R20 VDD.n7 VDD.n6 0.256392
R21 VDD.n19 VDD.n16 0.256392
R22 VDD.n4 VDD 0.255237
R23 VDD.n18 VDD 0.255237
R24 VDD.n12 VDD.n1 0.2513
R25 VDD.n11 VDD 0.184824
R26 VDD.n5 VDD.n4 0.160896
R27 VDD.n18 VDD.n17 0.160896
R28 VDD VDD.n13 0.147947
R29 VDD.n1 D 0.0733169
R30 VDD.n10 D 0.0624718
R31 VDD VDD.n8 0.0605
R32 VDD VDD.n20 0.0605
R33 VDD.n13 VDD 0.0258
R34 VDD.n8 VDD.n3 0.0255
R35 VDD.n20 VDD.n15 0.0255
R36 VDD.n4 VDD 0.02425
R37 VDD.n18 VDD 0.02425
R38 GND.n4 GND.n3 4108.43
R39 GND.n4 GND.n0 4.177
R40 GND.n3 GND.n2 2.72142
R41 GND.n2 GND.n0 2.39197
R42 VSS GND.n1 1.34364
R43 VSS GND.n5 1.34079
R44 GND.n1 GND 1.23785
R45 GND.n5 GND 1.23785
R46 GND.n2 VSS 0.356592
R47 VSS GND.n0 0.239894
R48 GND.n3 GND.n1 0.235919
R49 GND.n5 GND.n4 0.235919
R50 Y.n1 Y.n0 33.4092
R51 Y.n4 Y.n3 33.4092
R52 Y.n2 Y.n1 15.0283
R53 Y.n5 Y.n4 15.0223
R54 RST_N Y 14.6558
R55 Y.n6 Y.n5 9.46795
R56 RST_N Y.n2 9.02795
R57 Y.n6 RST_N 0.368647
R58 Y.n5 RESET_B 0.0754451
R59 Y.n2 RESET_B 0.0694011
R60 RST_N Y.n6 0.0453627
R61 A.n3 A.n2 15.0255
R62 A.n1 A.n0 15.0005
R63 A.n4 A.n1 10.8755
R64 Q A.n4 9.42191
R65 A.n4 A.n3 9.0005
R66 A.n3 A 0.0471667
R67 A.n1 A 0.0415169
R68 VSS.n3 VSS.n1 4108.42
R69 VSS.n4 VSS.n3 4.17719
R70 VSS.n5 VSS.n1 2.72142
R71 VSS.n5 VSS.n4 2.39159
R72 VSS.n2 VSS 1.34616
R73 VSS VSS.n0 1.34364
R74 VSS.n0 GND 1.23785
R75 VSS.n2 GND 1.22426
R76 VSS VSS.n5 0.356592
R77 VSS.n4 VSS 0.24028
R78 VSS.n1 VSS.n0 0.235919
R79 VSS.n3 VSS.n2 0.231732
R80 B.n1 B.n0 15.0201
R81 DN B.n1 9.41058
R82 B.n2 Q 9.13398
R83 B.n2 DN 1.9189
R84 DN B.n2 0.30498
R85 B.n1 B 0.0928214
R86 CLK.n1 CLK.n0 15.0353
R87 F_VCO CLK.n1 9.03283
R88 CLK.n1 CLK 0.0555
R89 D.n10 D.n9 17.5138
R90 D.n1 D.n0 17.5138
R91 D.n15 D.n14 17.0005
R92 D.n6 D.n5 17.0005
R93 D.n20 D.n19 15.0144
R94 D.n8 D.n7 15.0036
R95 D.n14 D.n13 4.39065
R96 D.n12 VDD 3.52544
R97 D.n3 VDD 3.52544
R98 D.n5 D.n2 3.05346
R99 D.n4 D.n1 1.25491
R100 D.n11 D.n10 1.23733
R101 D.n12 D.n11 1.18491
R102 D.n4 D.n3 1.16733
R103 D.n18 D.n17 0.6792
R104 D.n16 VDD 0.667521
R105 VDD D.n18 0.4625
R106 D.n17 VDD 0.4548
R107 D.n16 VDD 0.433479
R108 VDD D.n20 0.341218
R109 D.n14 D.n11 0.256392
R110 D.n5 D.n4 0.256392
R111 D.n13 VDD 0.255237
R112 D.n2 VDD 0.255237
R113 D.n17 D.n8 0.2513
R114 D.n18 VDD 0.184824
R115 D.n13 D.n12 0.160896
R116 D.n3 D.n2 0.160896
R117 D.n16 VDD 0.147947
R118 D.n8 D 0.0733169
R119 D.n20 D 0.0624718
R120 VDD D.n15 0.0605
R121 VDD D.n6 0.0605
R122 VDD D.n16 0.0258
R123 D.n15 D.n10 0.0255
R124 D.n6 D.n1 0.0255
R125 D.n13 VDD 0.02425
R126 D.n2 VDD 0.02425
R127 Q.n1 Q.n0 15.0201
R128 DN Q.n1 9.41058
R129 Q.n2 Q 9.13398
R130 DN Q.n2 1.9189
R131 Q.n2 DN 0.30498
R132 Q.n1 B 0.0928214
R133 RESET_B.n1 RESET_B.n0 33.4092
R134 RESET_B.n4 RESET_B.n3 33.4092
R135 RESET_B.n2 RESET_B.n1 15.0283
R136 RESET_B.n5 RESET_B.n4 15.0223
R137 RST_N Y 14.6558
R138 RESET_B.n6 RESET_B.n5 9.46795
R139 RST_N RESET_B.n2 9.02795
R140 RST_N RESET_B.n6 0.368647
R141 RESET_B.n5 RESET_B 0.0754451
R142 RESET_B.n2 RESET_B 0.0694011
R143 RESET_B.n6 RST_N 0.0453627
R144 UP.n0 Y 9.1505
R145 UP UP.n0 0.976086
R146 UP.n0 UP 0.00505172
R147 DN.n1 DN.n0 15.0201
R148 DN DN.n1 9.41058
R149 DN.n2 Q 9.13398
R150 DN DN.n2 1.9189
R151 DN.n2 DN 0.30498
R152 DN.n1 B 0.0928214
R153 F_VCO.n1 F_VCO.n0 15.0353
R154 F_VCO F_VCO.n1 9.03283
R155 F_VCO.n1 CLK 0.0555
R156 F_REF.n2 F_REF.n1 15.0445
R157 F_REF.n3 F_REF.n2 9.0005
R158 F_REF.n0 F_REF 2.91393
R159 F_REF.n0 F_REF 0.851167
R160 F_REF.n0 F_REF 0.143121
R161 F_REF.n2 CLK 0.0463333
R162 F_REF F_REF.n3 0.0275769
R163 F_REF.n3 F_REF.n0 0.00146703
R164 RST_N.n1 RST_N.n0 33.4092
R165 RST_N.n4 RST_N.n3 33.4092
R166 RST_N.n2 RST_N.n1 15.0283
R167 RST_N.n5 RST_N.n4 15.0223
R168 Y RST_N 14.6558
R169 RST_N.n6 RST_N.n5 9.46795
R170 RST_N RST_N.n2 9.02795
R171 RST_N.n6 RST_N 0.368647
R172 RST_N.n5 RESET_B 0.0754451
R173 RST_N.n2 RESET_B 0.0694011
R174 RST_N RST_N.n6 0.0453627
C127 Q_N GND 0.29123f
C128 DN GND 1.12603f
C129 Q GND 1.73554f
C130 F_VCO GND 0.66219f
C131 UP GND 0.49728f
C132 F_REF GND 0.57105f
C133 RST_N GND 2.4143f
C134 VDD GND 2.55521f
C135 a_2880_n919# GND 0.44057f $ **FLOATING
C136 a_1336_n843# GND 0.09171f $ **FLOATING
C137 a_460_n907# GND 0.03574f $ **FLOATING
C138 a_2231_n642# GND 0.72676f $ **FLOATING
C139 a_1658_n703# GND 0.30028f $ **FLOATING
C140 a_1430_n843# GND 0.95142f $ **FLOATING
C141 a_682_n576# GND 0.3603f $ **FLOATING
C142 a_580_n663# GND 0.79475f $ **FLOATING
C143 a_171_n602# GND 1.57954f $ **FLOATING
C144 a_n115_n920# GND 0.18121f $ **FLOATING
C145 a_145_n697# GND 0.24079f $ **FLOATING
C146 a_1337_207# GND 0.09171f $ **FLOATING
C147 a_461_143# GND 0.03574f $ **FLOATING
C148 a_2232_408# GND 0.72199f $ **FLOATING
C149 a_1659_347# GND 0.29838f $ **FLOATING
C150 a_1431_207# GND 0.94268f $ **FLOATING
C151 a_683_474# GND 0.35899f $ **FLOATING
C152 a_581_387# GND 0.7728f $ **FLOATING
C153 a_172_448# GND 1.57629f $ **FLOATING
C154 a_n114_130# GND 0.16295f $ **FLOATING
C155 a_146_353# GND 0.24261f $ **FLOATING
.ends
